US04983395
An L1 laminate is prepared as described in Example 1 using a polyisobutylene (PIB) adhesive in place of the silicone adhesive and a Daubert C-150 release liner in place of the Akrosil Biorelease release liner. A nicardipine-enhancer gel formulation is prepared by mixing adequate quantities of nicardipine HCl and Klucel HF® with a 65%/10%/20%/5% (volume percent) mixture of ethanol/ water/glycerine/glycerol monooleate to provide a final gel with a nicardipine concentration of 150 mg/cc and a Klucel level of 1.5% (wt/wt). A nicardipine transdermal system is then prepared as described in Example 1 using the nicardipine-enhancer gel formulation.

reactant | nicardipine HCl | CC1=C(C(C(=C(N1)C)C(=O)OCCN(C)CC=2C=CC=CC2)C=3C=CC=C(C3)[N+](=O)[O-])C(=O)OC.Cl
reactant | ethanol water glycerine glycerol monooleate | C(C)O.O.OCC(O)CO.C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O)CO
product | nicardipine | CC1=C(C(C(=C(N1)C)C(=O)OCCN(C)CC=2C=CC=CC2)C=3C=CC=C(C3)[N+](=O)[O-])C(=O)OC | C26H29N3O6
